US05840764
A parr bottle was charged with palladium on activated carbon (5%, 0.196g). A solution of 2-nitro-3-hydroxybenzonitrile (1.31 g, 0.008 mol) in 40 ml of ethanol was added. The reaction mixture was placed under 25 psi of hydrogen gas and shaken for 1 hour. TLC (1:1 hexane:ethyl acetate) shows that no starting material remained. The mixture was filtered through Celite® and evaporated to yield 2-amino-3-hydroxybenzonitrile, 1.01 g (0.0075 mol, 94%).

reactant | 2-nitro-3-hydroxybenzonitrile | 0.008 mol, 1.31 g | [N+](=O)([O-])C1=C(C#N)C=CC=C1O | C7H4N2O3
reactant | hydrogen | [H][H] | H2
reactant | hexane | CCCCCC | C6H14
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | palladium on activated carbon | 0.196g | [Pd] | Pd
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 2-amino-3-hydroxybenzonitrile | NC1=C(C#N)C=CC=C1O | C7H6N2O
